US09315521B2
(2,3-dichloropyridin-4-yl)methanol was converted to 4-(bromomethyl)-2,3-dichloropyridine. The reaction of 4-(bromomethyl)-2,3-dichloropyridine and 6-methyl-2-sulfanylpyrimidin-4-ol provided 2-{[(2,3-dichloropyridin-4-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol as a white solid (0.98 g, 78% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.21 (s, 3H), 3.82 (s, 3H), 4.47 (s, 2H), 6.04 (bs, 1H), 7.68 (d, J=4.7 Hz, 1H), 8.32 (d, J=4.7 Hz, 1H); M+302.2.

reactant | (2,3-dichloropyridin-4-yl)methanol | ClC1=NC=CC(=C1Cl)CO | C6H5Cl2NO
reactant | 4-(bromomethyl)-2,3-dichloropyridine | BrCC1=C(C(=NC=C1)Cl)Cl | C6H4BrCl2N
reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | CC1=CC(=NC(=N1)S)O | C5H6N2OS
product | 2-{[(2,3-dichloropyridin-4-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | 0.98 g, 78% yield | ClC1=NC=CC(=C1Cl)CSC1=NC(=CC(=N1)O)C | C11H9Cl2N3OS
